US04937306
To a slurry of 215.1 g of 2.4-dinitrobenzoic acid in 1000 ml of toluene was added with stirring 196.2 g of morpholine. Next 76.5 g of phosphorus oxychloride was added dropwise at such a rate to maintain the reaction temperature below 90° C. The mixture was refluxed for 5 hrs, cooled to 80° C., and slowly poured into 1000 ml of aqueous 5% NaHCO3 solution with stirring. The precipitate was filtered, washed with water and dried to yield 231.7 g of N-(2,4-dinitrobenzoyl)morpholine, mp 159°-161° C.

reactant | 2.4-dinitrobenzoic acid | 215.1 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | morpholine | 196.2 g | N1CCOCC1 | C4H9NO
reactant | phosphorus oxychloride | 76.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-dinitrobenzoyl)morpholine | 231.7 g | [N+](=O)([O-])C1=C(C(=O)N2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C11H11N3O6
